US07468375B2
To a stirring solution of methyl N-[(4-methylphenyl)sulfonyl]glycinate (51.75 g, 0.213 mol, prepared by the method of: Ginzel, K. D.; Brungs, P.; Steckhan, E. Tetrahedron 1989, 45, 1691-1701) in anhydrous DMF (0.5 L) was added NaH (60% in oil, 8.59 g, 0.215 mol) in one portion. The mixture was allowed to stir for 30 minutes (warms and returns to room temperature) at which time a solution ethyl 4,5-dibromo-2-(bromomethyl)-1-(4-fluorobenzyl)-1H-pyrrole-3-carboxylate (105.92 g, 0.213 mol) in anhydrous DMF (0.5 L) was added over 1 hour. The mixture was allowed to stir at room temperature for 16 hours, then the DMF was removed in vacuo (approx 2 Torr, 40° C. water bath) and the oily residue was dissolved in dichloromethane (0.75 L), the solution was washed with saturated aq. NH4Cl (0.5 L), brine (0.5 L), and dried (Na2SO4). Filtration and concentration in vacuo provided the crude alkylated material as a viscous reddish oil. The crude material was heated in the presence of MeOH (0.75 L) until the MeOH was boiling, then dichloromethane was added slowly until solution was achieved. The red solution was cooled to room temperature (see off-white crystals) and the crystallization was completed by cooling in a refrigerator (4° C.) for 16 hours. The ivory solid was isolated by filtration, the solid was rinsed with diethyl ether:hexanes (0.5 L, 10:90 v/v) and the solid was dried in a vacuum oven (approx. 20 Torr, 50° C.) overnight to furnish ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-methoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate (108.2 g, 77%) as a free flowing, fine, ivory solid. TLC (Merck, hexanes:EtOAc 75:25, UV-+, cerium molybdate-+-purple): Rf=0.38 LCMS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—5 minutes, ESI, +mode): RT—4.436 min, m/e=680.8 (55), 681.8 (18), 682.9 (base), 683.9 (30), 684.8 (62), 686.8 (10)—M+Na

reactant | methyl N-[(4-methylphenyl)sulfonyl]glycinate | CC1=CC=C(C=C1)S(=O)(=O)NCC(=O)OC | C10H13NO4S
reactant | NaH | 0.215 mol, 8.59 g | [H-].[Na+]
reactant | ethyl 4,5-dibromo-2-(bromomethyl)-1-(4-fluorobenzyl)-1H-pyrrole-3-carboxylate | 0.213 mol, 105.92 g | BrC=1C(=C(N(C1Br)CC1=CC=C(C=C1)F)CBr)C(=O)OCC | C15H13Br3FNO2
reactant | MeOH | 0.75 L | CO | CH4O
solvent | DMF | 0.5 L | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 L | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-methoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate | 108.2 g, 77% | BrC=1C(=C(N(C1Br)CC1=CC=C(C=C1)F)CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)OC)C(=O)OCC | C25H25Br2FN2O6S
